US05958931
A solution of 12.1 ml (0.1 mol) of 4-methoxybenzaldehyde, 10.3 ml (0.1 mol) of acetylacetone and 9.13 g (0.12 mol) of thiourea in 30 ml of ethanol was treated with 10 drops of conc. hydrochloric acid and boiled under reflux while stirring for 4 h. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (dichloromethane-methanol 98:2). Subsequent crystallization from ethanol gave 6.2 g (22%) of (RS)-1-[4-(4-methoxyphenyl)-6-methyl-2-thioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]ethanone as a red-brown solid with m.p. 175° C.

reactant | 4-methoxybenzaldehyde | 0.1 mol, 12.1 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetylacetone | 0.1 mol, 10.3 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | thiourea | 0.12 mol, 9.13 g | NC(=S)N | CH4N2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
product | (RS)-1-[4-(4-methoxyphenyl)-6-methyl-2-thioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]ethanone | 6.2 g, 22% | COC1=CC=C(C=C1)C1NC(NC(=C1C(C)=O)C)=S | C14H16N2O2S
